US06329381B1
6-Amino-9-benzyl-2-cyclohexylamino-8-hydroxypurine
6-Amino-9-benzyl-8-bromo-2-cyclohexylaminopurine (82 mg, 0.20 mmol) in concentrated hydrochloric acid (30 ml) and methanol (20 ml) were refluxed for 5 hours under heating. After removal of methanol, the reaction mixture was made basic with 28% aqueous ammonia. The resulting crystals were filtered, washed with water and dried to give the subject compound (7 mg, yield 23%).

reactant | 6-Amino-9-benzyl-8-bromo-2-cyclohexylaminopurine | 0.20 mmol, 82 mg | NC1=C2N=C(N(C2=NC(=N1)NC1CCCCC1)CC1=CC=CC=C1)Br | C18H21BrN6
reactant | methanol | 20 ml | CO | CH4O
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 6-Amino-9-benzyl-2-cyclohexylamino-8-hydroxypurine | 7 mg, yield 23% | NC1=C2N=C(N(C2=NC(=N1)NC1CCCCC1)CC1=CC=CC=C1)O | C18H22N6O
